US08048909B2
Methyl 4-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate
Methyl 5-bromo-4-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate (1.1 g), phenylboronic acid (487 mg), sodium carbonate (488 mg) and tetrakis(triphenylphosphine)palladium (355 mg) were suspended in a mixture of 1,2-dimethoxyethane (10 mL) and distilled water (10 mL), and the mixture was reacted in a microwave reactor (Emrys Optimizer, Personal Chemistry, 140° C., 4 min). The reaction mixture was filtered through celite, water was added to the filtrate and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→2:1) to give the title compound as a pale-yellow oil (yield 947 mg, 87%).

reactant | Methyl 5-bromo-4-methyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | 1.1 g | BrC1=C(C(=CN1S(=O)(=O)C1=CC=CC=C1)C(=O)OC)C | C13H12BrNO4S
reactant | phenylboronic acid | 487 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 488 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 10 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 355 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4-methyl-5-phenyl-1-(phenylsulfonyl)-1H-pyrrole-3-carboxylate | yield 947 mg, 87% | CC=1C(=CN(C1C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)C(=O)OC | C19H17NO4S
